US07985755B2
Step 3: 2-[4-(2-Chlorobenzyl)cyclohexylmethoxy]-6-fluorobenzonitrile
4-(2-Chlorobenzyl)cyclohexylmethanol (68 mg; 0.28 mmol) and 2,6-difluorobenzonitrile (40 mg; 0.28 mmol) were carried out using Method I with potassium t-butoxide (35 mg; 0.31 mmol) in 1.5 mL of dimethylformamide. Material was purified by flash chromatography to give 100 mgs of title compound as a colorless oil. (100% yield).

reactant | 4-(2-Chlorobenzyl)cyclohexylmethanol | 0.28 mmol, 68 mg | ClC1=C(CC2CCC(CC2)CO)C=CC=C1 | C14H19ClO
reactant | 2,6-difluorobenzonitrile | 0.28 mmol, 40 mg | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | potassium t-butoxide | 0.31 mmol, 35 mg | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 2-[4-(2-Chlorobenzyl)cyclohexylmethoxy]-6-fluorobenzonitrile | 100 mgs, 100% yield | ClC1=C(CC2CCC(CC2)COC2=C(C#N)C(=CC=C2)F)C=CC=C1 | C21H21ClFNO
